US06057451
4-{4-(2-Aminoethyl)phenyl}-2-thiazolamine: A solution of N-{2-{4-(2-bromoacetyl)phenyl}ethyl}-2,2,2-trifluoroacetamide (5.55 g, 16.4 mmol), prepared in Example 1(b), and thiourea (1.25 g, 16.4 mmol) in isopropanol (60 mL) was heated at reflux for 1 h. The reaction mixture was concentrated under reduced pressure to give crude N-{2-{4-(2-amino-4-thiazolyl)phenyl}ethyl}-2,2,2-trifluoroacetamide hydrobromide (6.51 g, ~100% yield). A solution of the crude hydrobromide and aqueous 4N NaOH (14.3 mL, 57.4 mmol) in MeOH (70 mL) and H2O (10 mL) was heated at reflux for 20 min. The solution was cooled, H2O (30 mL) was added and the MeOH was carefully evaporated under reduced pressure while keeping the solution cool. The resulting suspension was cooled to 0°. The crystals obtained by filtration were washed with cold H2O then air-dried to give 4-{4-(2-aminoethyl)phenyl}-2-thiazolamine (3.3 g, 92% yield): 1H NMR (DMSO-d6) δ 7.69 (d, J=8.2 Hz, 2H), 7.18 (d, J=8.2 Hz, 2H), 7.03 (broad s, 2H), 6.92 (s, 1H), 2.76 (t, J=7.1 Hz, 2H), 2.62 (t, J=7.1 Hz, 2H).

reactant | 4-{4-(2-Aminoethyl)phenyl}-2-thiazolamine | NCCC1=CC=C(C=C1)C=1N=C(SC1)N | C11H13N3S
reactant | N-{2-{4-(2-bromoacetyl)phenyl}ethyl}-2,2,2-trifluoroacetamide | 16.4 mmol, 5.55 g | BrCC(=O)C1=CC=C(C=C1)CCNC(C(F)(F)F)=O | C12H11BrF3NO2
reactant | thiourea | 16.4 mmol, 1.25 g | NC(=S)N | CH4N2S
solvent | isopropanol | 60 mL | C(C)(C)O | C3H8O
product | N-{2-{4-(2-amino-4-thiazolyl)phenyl}ethyl}-2,2,2-trifluoroacetamide hydrobromide | 6.51 g, ~100% yield | Br.NC=1SC=C(N1)C1=CC=C(C=C1)CCNC(C(F)(F)F)=O | InChI=1S/C13H12F3N3OS.BrH/c14-13(15,16)11(20)18-6-5-8-1-3-9(4-2-8)10-7-21-12(17)19-10;/h1-4,7H,5-6H2,(H2,17,19)(H,18,20);1H
